US09108977B2
To a suspension of 1.403 g of 11-chloro-1,3,4,6,7,8,9,10-octahydro-2H-azepino[4,5-g]quinolin-2-one in 15 ml of dioxane were added 1.2 ml of triethylamine and 1.5 g of di-t-butyl dicarbonate, followed by stirring at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 1.779 g of t-butyl 11-chloro-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate as a milky white solid.

reactant | 11-chloro-1,3,4,6,7,8,9,10-octahydro-2H-azepino[4,5-g]quinolin-2-one | 1.403 g | ClC=1C2=C(C=C3CCC(NC13)=O)CCNCC2 | C13H15ClN2O
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 1.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | t-butyl 11-chloro-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 1.779 g | ClC=1C2=C(C=C3CCC(NC13)=O)CCN(CC2)C(=O)OC(C)(C)C | C18H23ClN2O3
